US07419979B2
6-{4-[4-(5-Chloro-1H-indole-2-sulfonyl)-2-oxo-piperazin-1-ylmethyl]-phenyl}-2-(2-morpholin-4-yl-ethyl)-2H-pyridazin-3-one
6-Chloro-2-(2-morpholin-4-yl-ethyl)-2H-pyridazin-3-one hydrochloride, (63 mg, 0.22 mmol), 4-({4-[(5-chloro-1H-indol-2-yl)sulphonyl]piperazin-1-yl}carbonyl)-phenyl boronic acid (78 mg, 0.17 mmol), caesium carbonate (156 mg, 0.48 mmol), and bis(triphenylphosphine) palladium (II) chloride (11 mg, 0.02 mmol,) were mixed in 2.0 mL of dimethyl acetamide/water/ethanol; 7:3:2) in a microwave vial. The reaction was heated to 150° C. for 150 seconds. After cooling, the mixture was filtered and loaded onto a reversed-phase preparative HPLC for purification. After freezing dry of pooled fractions, 71 mg (67%) of the product was obtained as a white powder.

reactant | 6-Chloro-2-(2-morpholin-4-yl-ethyl)-2H-pyridazin-3-one hydrochloride | 0.22 mmol, 63 mg | Cl.ClC=1C=CC(N(N1)CCN1CCOCC1)=O
reactant | 4-({4-[(5-chloro-1H-indol-2-yl)sulphonyl]piperazin-1-yl}carbonyl)-phenyl boronic acid | 0.17 mmol, 78 mg | ClC=1C=C2C=C(NC2=CC1)S(=O)(=O)N1CCN(CC1)C(=O)C1=CC=C(C=C1)B(O)O | C19H19BClN3O5S
reactant | caesium carbonate | 0.48 mmol, 156 mg | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | dimethyl acetamide water ethanol | 2.0 mL | CC(=O)N(C)C.O.C(C)O
catalyst | bis(triphenylphosphine) palladium (II) chloride | 0.02 mmol, 11 mg | [Pd](Cl)Cl.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | 6-{4-[4-(5-Chloro-1H-indole-2-sulfonyl)-2-oxo-piperazin-1-ylmethyl]-phenyl}-2-(2-morpholin-4-yl-ethyl)-2H-pyridazin-3-one | 71 mg, 67% | ClC=1C=C2C=C(NC2=CC1)S(=O)(=O)N1CC(N(CC1)CC1=CC=C(C=C1)C=1C=CC(N(N1)CCN1CCOCC1)=O)=O | C29H31ClN6O5S
